US08048902B2
Synthesis of 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-carboxylic acid (Compound 8)
{3-Methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.100 g, 0.21 mmol), 4-bromobenzoic acid (0.042 g, 0.21 mmol), and potassium carbonate (0.073 g, 0.53 mmol) were combined in DME (10 mL) and water (5 mL). The solution was purged with N2 for 10 minutes, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.014 g, 0.02 mmol) was added. The reaction was stirred at 70° C. overnight, until no starting material was seen by analytical LCMS. The mixture was cooled to room temperature and quenched with water. The mixture was extracted with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by preparative HPLC to give the title compound.

reactant | {3-Methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.21 mmol, 0.100 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C25H28BClN2O5
reactant | 4-bromobenzoic acid | 0.21 mmol, 0.042 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | potassium carbonate | 0.53 mmol, 0.073 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.02 mmol, 0.014 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-carboxylic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C | C26H21ClN2O5
